US07915404B2
(3-Oxo-propyl)-carbamic acid benzyl ester
A solution of (3-hydroxy-propyl)-carbamic acid benzyl ester (100 g, 478 mmol) and 2,2,6,6-tetramethyl-1-piperidinyloxy, free radical (TEMPO; 7.5 g, 48 mmol) in DCM (1 L) was treated with (diacetoxyiodo)benzene, PhI(OAc)2, (170 g, 528 mmol) in three portions. After 18 h at rt, the mixture was slowly quenched with saturated aqueous (satd. aq.) NaHCO3. The organic layer was separated, washed with satd. aq. NaCl (500 mL), dried (Na2SO4), and concentrated. The residue was purified by FCC to give a solid, which was stirred in 1:1 Et2O/hexanes for 2 h. The solid was collected by filtration. Successive iterations were combined to provide the title compound as a white solid. 1H NMR (400 MHz, CDCl3): 9.81 (s, 1H), 7.36-7.31 (m, 5H), 5.14 (br s, 1H), 5.08 (s, 2H), 3.49 (q, J=6.0, 2H), 2.75 (t, J=5.7, 2H).

reactant | (3-hydroxy-propyl)-carbamic acid benzyl ester | 478 mmol, 100 g | C(C1=CC=CC=C1)OC(NCCCO)=O | C11H15NO3
reactant | TEMPO | CC1(CCCC(N1[O])(C)C)C | C9H18NO
reactant | (diacetoxyiodo)benzene | C(C)(=O)OI(OC(C)=O)C1=CC=CC=C1 | C10H11IO4
reactant | PhI(OAc)2 | 528 mmol, 170 g | C(C)(=O)OI(OC(C)=O)C1=CC=CC=C1 | C10H11IO4
solvent | DCM | 1 L | C(Cl)Cl | CH2Cl2
product | (3-Oxo-propyl)-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NCCC=O)=O | C11H13NO3
